US08124606B2
Compound 63D: (S)-methyl 4-ethyl-3-methyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine-7-carboxylate:
(S)-methyl 6-((1-ethoxy-1-oxopropan-2-yl)(ethyl)amino)-5-nitronicotinate (1.22 g, 3.92 mmol) was dissolved in dichloromethane (12 mL). To this solution were added triphenyl phosphite (5.0 mg, 16 umol), ammonium metavanadate (50.0 mg, 0.427 mmol) and Pt/C (5% wt., 0.200 g). The reaction mixture was hydrogenated at 100 psi at 25° C. for 18 h. The mixture was filtered through a small pad of celite and the pad was washed with dichloromethane (20 mL). The combined filtrates were concentrated in vacuo and crystallized with ethyl ether (50 mL) to afford the title compound as a white solid (0.560 g, 57%). [M+H] calc'd for C12H15N3O3, 250; found, 250.

reactant | (S)-methyl 6-((1-ethoxy-1-oxopropan-2-yl)(ethyl)amino)-5-nitronicotinate | 3.92 mmol, 1.22 g | C(C)OC([C@H](C)N(C1=NC=C(C(=O)OC)C=C1[N+](=O)[O-])CC)=O | C14H19N3O6
reactant | triphenyl phosphite | 16 umol, 5.0 mg | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
catalyst | ammonium metavanadate | 0.427 mmol, 50.0 mg | [NH4+].[O-][V](=O)=O
catalyst | Pt/C | 0.200 g | [Pt] | Pt
product | (S)-methyl 4-ethyl-3-methyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine-7-carboxylate | 0.560 g, 57% | C(C)N1C2=C(NC([C@@H]1C)=O)C=C(C=N2)C(=O)OC | C12H15N3O3
